US09371320B2
B) 4-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)-N,N-dimethylthiophene-2-carboxamide
4-(1-Cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide (51.0 mg) was added to a solution of sodium hydride (60% dispersion in mineral oil, 30.0 mg) in DMF (10 ml), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added iodomethane (0.023 mL), and the mixture was stirred overnight at room temperature. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (55.0 mg).

reactant | 4-(1-Cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 51.0 mg | C1(CCCC1)N1N=C(C=2C(=NC=CC21)OC)C=2C=C(SC2)C(=O)N | C17H18N4O2S
reactant | sodium hydride | 30.0 mg | [H-].[Na+]
reactant | iodomethane | 0.023 mL | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)-N,N-dimethylthiophene-2-carboxamide | 55.0 mg | C1(CCCC1)N1N=C(C=2C(=NC=CC21)OC)C=2C=C(SC2)C(=O)N(C)C | C19H22N4O2S
